US08304419B2
To a solution of 3-bromo-1H-pyrrole-2-carboxylic acid (0.2 g, 0.684 mmol) in DMF (2 mL) was added HATU (0.48 g, 1.262 mmol), DIPEA (0.270 ml, 1.547 mmol) and 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile (0.39 g, 1.253 mmol). The reaction mixture was stirred at RT overnight. Water (5 ml) and EtOAc (10 mL) were added and the layers separated. The aqueous layer was extracted with EtOAc (3×10 mL), the organic layers combined, dried over sodium sulfate, filtered and evaporated. Purification was accomplished by RPHPLC. Further purification by RPHPLC was required. The desired fractions were collected, neutralized with sat. sodium bicarbonate and extracted with EtOAc (3×10 mL). The organic layers were combined, dried over sodium sulfate, filtered and evaporated to afford 3-bromo-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-1H-pyrrole-2-carboxamide (0.029 g, 8.8% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ ppm 11.87 (br. s., 1H) 7.96 (t, 1H) 7.83 (s, 1H) 7.46-7.54 (m, 3H) 7.40 (t, 1H) 6.96 (t, 1H) 6.25 (t, 1H) 4.56 (d, 2H). MS: m/z 479.9 (M−1).

reactant | 3-bromo-1H-pyrrole-2-carboxylic acid | 0.684 mmol, 0.2 g | BrC1=C(NC=C1)C(=O)O | C5H4BrNO2
reactant | HATU | 1.262 mmol, 0.48 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 1.547 mmol, 0.270 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile | 1.253 mmol, 0.39 g | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)Cl)F | C14H9Cl2FN2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
solvent | Water | 5 ml | O | H2O
product | 3-bromo-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-1H-pyrrole-2-carboxamide | 0.029 g, 8.8% yield | BrC1=C(NC=C1)C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C#N)Cl)F | C19H11BrCl2FN3O2
